US08193199B2
3-(Azidomethyl)-8-chloro-2-(2-fluorophenyl)quinoline
To stirring solution of 8-chloro-3-(chloromethyl)-2-(2-fluorophenyl)quinoline (0.330 g, 1.08 mmol) in DMF was added sodium azide (0.561 g, 8.62 mmol), and the mixture stirred at room temperature. After 3 hours, the mixture was partitioned between CH2Cl2 and H2O. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure: LC-MS (ESI) m/z 313.0 [M+H]+. The crude product was carried on crude without purification for the next step.

reactant | 8-chloro-3-(chloromethyl)-2-(2-fluorophenyl)quinoline | 1.08 mmol, 0.330 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)F)CCl | C16H10Cl2FN
reactant | sodium azide | 8.62 mmol, 0.561 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(Azidomethyl)-8-chloro-2-(2-fluorophenyl)quinoline | N(=[N+]=[N-])CC=1C(=NC2=C(C=CC=C2C1)Cl)C1=C(C=CC=C1)F | C16H10ClFN4
